US06509329B1
Synthesis of N,N′-bis[2-(3,4,5-Trimethoxyphenyl)benzyl]-piperazine Dihydrochloride
2-(3,4,5-Trimethoxyphenyl)benzyl chloride (298 mg) and piperazine (43 mg) were dissolved in DMF (5 mL), and to the solution potassium carbonate (138 mg) was added. The mixture was stirred at 80° C. for 4 hours and concentrated under reduced pressure. Water was added to the residue to conduct extraction with chloroform. The resultant organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (chloroform:methanol=40:1) to obtain a free base of the title compound. This compound was dissolved in ethyl acetate, and to the solution an ethyl acetate solution of 4 M hydrogen chloride was added to provide a dihydrochloride.

reactant | 2-(3,4,5-Trimethoxyphenyl)benzyl chloride | 298 mg | COC=1C=C(C=C(C1OC)OC)C1=C(CCl)C=CC=C1 | C16H17ClO3
reactant | piperazine | 43 mg | N1CCNCC1 | C4H10N2
reactant | potassium carbonate | 138 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N,N′-bis[2-(3,4,5-Trimethoxyphenyl)benzyl]-piperazine Dihydrochloride | Cl.Cl.COC=1C=C(C=C(C1OC)OC)C1=C(CN2CCN(CC2)CC2=C(C=CC=C2)C2=CC(=C(C(=C2)OC)OC)OC)C=CC=C1 | InChI=1S/C36H42N2O6.2ClH/c1-39-31-19-27(20-32(40-2)35(31)43-5)29-13-9-7-11-25(29)23-37-15-17-38(18-16-37)24-26-12-8-10-14-30(26)28-21-33(41-3)36(44-6)34(22-28)42-4;;/h7-14,19-22H,15-18,23-24H2,1-6H3;2*1H
